US06187777B1
4-Piperidyl-6-pyrazin-2-ylpyrrolo[3,2-d]pyrimidine Hydrochloride Hydrate.
Using the method described in Example 30 by employing 2-(1-pyrrolidinylvinyl)pyrazine (freshly prepared before use) (2.39 g, 13.7 mmol), 4,6-dichloro-5-nitropyrimidine (Aldrich Chemical Company) (2.60 g, 13.7 mmol), N,N-diisopropylethyl amine (Aldrich Chemical Company) (2.4 mL, 13.7 mmol), piperidine (Aldrich Chemical Company) (2.2 mL, 21.9 mmol), NEt3 (Aldrich Chemical Company) (2.0 mL) and SnCl2 (41 mL of a 2M solution in DMF). The residue was purified by flash chromatography on silica gel with 95:5 CHCl3:MeOH as elutant to give 143 mg (4%) of the free base as a beige colored solid. 1H NMR (DMSO-d6; 400 MHz): δ 1.67 (br s, 6), 3.77 (s, 4), 7.28 (s, 1), 8.28 (s, 1), 8.63 (s, 1), 8.74 (s, 1), 9.36 (s, 1), 11.48 (s, 1). MS m/z: 281 (M+1). To a hot solution of 4-piperidyl-6-pyrazin-2-ylpyrrolo[3,2-d]pyrimidine (0.14 g, 0.51 mmol) in 10:1 EtOAc: MeOH (40 mL) was added 1M etheral HCl (Aldrich Chemical Company) (0.51 mL, 0.51 mmol). Cyrstallization occurred as the mixture cooled and the precipitate was collected by filtration. The crystals were washed with Et2O (3×10 mL) and dried under vacuum to give 128 mg (80%) of the title compound as a beige colored solid. Mp: >280° C. 1H NMR (DMSO-d6; 400 MHz): δ 1.73 (s, 6), 4.10 (s, 4), 7.37 (s, 1), 8.66 (s, 1), 8.75 (d, 1, J=2.5), 8.83 (t, 1, J=1.5), 9.49 (d, 1, J=1.2), 12.53 (s, 1), 14.56 (s, 1). MS m/z: 281 (M+1). Anal. Calcd for C15H16N6.HCl.0.25H2O: C, 56.00; H, 5.49; N, 26.13; Cl, 11.10. Found C, 56.00; H, 5.49; N, 26.11; Cl, 11.09.

reactant | 4-piperidyl-6-pyrazin-2-ylpyrrolo[3,2-d]pyrimidine | 0.51 mmol, 0.14 g | N1CCC(CC1)C1=NC=C2C(N1)=CC(=N2)C2=NC=CN=C2 | C15H16N6
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | HCl | 0.51 mmol, 1M, 0.51 mL | Cl | ClH
solvent | MeOH | 40 mL | CO | CH4O
product | 4-Piperidyl-6-pyrazin-2-ylpyrrolo[3,2-d]pyrimidine Hydrochloride Hydrate | 128 mg, 80% | O.Cl.N1CCC(CC1)C1=NC=C2C(N1)=CC(=N2)C2=NC=CN=C2 | InChI=1S/C15H16N6.ClH.H2O/c1-3-16-4-2-10(1)15-19-9-14-12(21-15)7-11(20-14)13-8-17-5-6-18-13;;/h5-10,16H,1-4H2,(H,19,21);1H;1H2
